US07598294B2
(E)-1-(3,4-Methylenedioxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-135)
To a stirred solution of piperonal (1.13 g, 7.5 mmol) and 3,4,5-trimethoxyacetophenone (1.58 g, 7.5 mmol) in methanol (15 ml) was added aqueous NaOH (6 ml, 50% w/v) and the mixture stirred for 18 h. The resultant solid was collected by filtration and recrystallised from methanol (100 ml) as pale yellow crystals (1.98 g, 77%): mp 135° C.; 1H NMR δ (CDCl3) 3.92 (3H, s, OCH3), 3.93 (6H, s, OCH3), 6.01 (2H, s, CH2), 6.83 (1H, d, J=8.0 Hz, H-5), 7.11 (1H, dd, J=1.6, 8.0 Hz, H-6), 7.15 (1H, d, J=1.6 Hz, H-2), 7.25 (2H, s, H-2′,6′), 7.30 (1H, d, J=15.5 Hz, CH), 7.72 (1H, d, J=15.5 Hz, CHCO); 13C NMR 56.42, 60.99, 101.69, 106.06, 106.68, 108.72, 119.77, 125.26, 133.72, 142.43, 144.60, 148.44, 149.96, 153.17, 189.07; MS (rel intensity) m/z 343 ([M+H]+, 100%); Anal. Calcd (C19H18O6): C, 66.66; H, 5.30. Found C, 66.43; H, 5.45.

reactant | piperonal | 7.5 mmol, 1.13 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 3,4,5-trimethoxyacetophenone | 7.5 mmol, 1.58 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | NaOH | 6 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (E)-1-(3,4-Methylenedioxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | C1OC=2C=C(C=CC2O1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C19H18O6
